US08957064B2
4-(2-cyclopropyl-6-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)-benzaldehyde
This compound was prepared in a manner according to 4-(2-methyl-6-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)-benzaldehyde by using 5-cyclopropyl-1,2,4-triazol-3-amine in the first step.

reactant | 4-(2-methyl-6-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)-benzaldehyde | CC1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=O)C=C2)=N1 | C19H14N4O
reactant | 5-cyclopropyl-1,2,4-triazol-3-amine | C1(CC1)C1=NC(=NN1)N | C5H8N4
product | 4-(2-cyclopropyl-6-phenyl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)-benzaldehyde | C1(CC1)C1=NN2C(N=C(C(=C2)C2=CC=CC=C2)C2=CC=C(C=O)C=C2)=N1 | C21H16N4O
